US08664220B2
Step 1: 2-Bromo-6-phenylsulfanyl-pyridine
2,6-Dibromo-pyridine (3.6 g, 15 mmol) was dissolved in THF (20 mL) and cooled to −78° C. under N2 atmosphere. n-Butyllithium (2.5M in THF, 6.4 mL, 16 mmol) was added and the reaction stirred for 1 hour before diphenyl disulfide (15 mmol) in THF (2 mL) was added. The reaction was allowed to warm to room temperature and stirred for 2 hours. The reaction was quenched with H2O and submitted to aqueous workup. The crude residue was purified on silica gel to afford the title compound.

reactant | 2,6-Dibromo-pyridine | 15 mmol, 3.6 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | n-Butyllithium | 16 mmol, 2.5M, 6.4 mL | C(CCC)[Li]
reactant | diphenyl disulfide | 15 mmol | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-Bromo-6-phenylsulfanyl-pyridine | BrC1=NC(=CC=C1)SC1=CC=CC=C1 | C11H8BrNS
